US05073556
1.30 g (0.013 moles) of 2-methylpiperazine was added to a solution of 0.90 g (0.0026 moles) of 5-amino-1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (prepared as described in Preparation 11) in 8 ml of pyridine, and the mixture was stirred at 105°-110° C. for 2 hours. At the end of this time, the solvent was removed by distillation under reduced pressure. Water was added to the residue, and the resulting mixture was neutralized (to about pH 7) by the addition of acetic acid; the mixture was then extracted with chloroform. The extract was washed with water, dried over anhydrous sodium sulfate, and concentrated by evaporation under reduced pressure. The resulting residue was washed with ethanol to give 0.72 g of 5-amino-1-cyclopropyl-8-difluoromethoxy-6-fluoro-7-(3-methylpiperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid as a yellow powder, melting at 283°-286° C.

reactant | 2-methylpiperazine | 0.013 moles, 1.30 g | CC1NCCNC1 | C5H12N2
reactant | 5-amino-1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.0026 moles, 0.90 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)OC(F)F)C1CC1)C(=O)O)=O | C14H10F4N2O4
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 5-amino-1-cyclopropyl-8-difluoromethoxy-6-fluoro-7-(3-methylpiperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.72 g | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(NCC1)C)OC(F)F)C1CC1)C(=O)O)=O | C19H21F3N4O4
